US06727256B1
N-{-4-[(3-fluorobenzyl)oxy]-3-methoxyphenyl}-6-[5-({[2-(methanesulphonyl)ethyl]amino}methyl)-2-furyl]-4-quinazolinamine
Prepared according to Procedure D from 5-(4-{3-methoxy4-(3-fluorobenzyloxy)anilino}-6-quinazolinyl)-furan-2-carbaldehyde (0.6 equiv) and 2-methanesulphonyl-ethylamine (1 equiv). 1H NMR 400 MHz (DMSO-d6) 9.22 (s,1H); 8.78 (s,1H); 8.31 (d,1H); 7.88 (d,1H); 7.50-7.08 (m,8H); 6.84 (d,1H); 5.13 (s,2H); 4.42 (s,2H); 3.80 (s,3H); 3.60 (m,2H); 3.40 (m, 2H, obscured by water peak); 3.10 (s,3H); MS m/z 577 (M+1).

reactant | 5-(4-{3-methoxy4-(3-fluorobenzyloxy)anilino}-6-quinazolinyl)-furan-2-carbaldehyde | 0.6 equiv | COC=1C=C(NC2=NC=NC3=CC=C(C=C23)C2=CC=C(O2)C=O)C=CC1OCC1=CC(=CC=C1)F | C27H20FN3O4
reactant | 2-methanesulphonyl-ethylamine | 1 equiv | CS(=O)(=O)CCN | C3H9NO2S
product | N-{-4-[(3-fluorobenzyl)oxy]-3-methoxyphenyl}-6-[5-({[2-(methanesulphonyl)ethyl]amino}methyl)-2-furyl]-4-quinazolinamine | FC=1C=C(COC2=C(C=C(C=C2)NC2=NC=NC3=CC=C(C=C23)C=2OC(=CC2)CNCCS(=O)(=O)C)OC)C=CC1 | C30H29FN4O5S
